US06147105
N-(4-Bromobutanoyl)-(n-butyl)-methylamine
Synthesis is performed basically analogously to 5., but with the following changes: the dibromohexane that is used in 4× excess is dissolved in a second reaction flask also while being exposed to nitrogen gassing and while being stirred in an ice bath, and then the indole-sodium salt that is dissolved in DMF is allowed to quickly flow in. The mixture is stirred for two hours at room temperature and then worked up as described under item 5.

reactant | dibromohexane | BrC(CCCCC)Br | C6H12Br2
reactant | indole sodium | N1C=CC2=CC=CC=C12.[Na]
reactant | DMF | CN(C)C=O | C3H7NO
product | N-(4-Bromobutanoyl)-(n-butyl)-methylamine | BrCCCC(=O)N(C)CCCC | C9H18BrNO
